US07557103B2
D. 4-(1-Ethyl-propyl)-6-methyl-pyridazin-3-ylamine
Dissolve 12.0 g (45 mmol) of N-[4-(1-ethyl-propyl)-6-methyl-pyridazin-3-yl]-2,2-dimethyl-propionamide in 60 ml of concentrated hydrochloric acid. Heat to 95° C. in a sealed flask for 2 h. Work up by pouring over ice and extracting with ethyl acetate three times. Discard the organic and adjust pH of aqueous to basic using 2N sodium hydroxide. Extract basic solution with ethyl acetate five times. Dry over magnesium sulfate, filter, and evaporate to obtain 6.68 g (37 mmol, 81.0%) of the title compound as brownish oil. 1H-NMR (DMSO-d6): δ 6.95 (s, 1H); 5.89 (s, br, 2H); 2.52-2.56 (m, 1H); 2.34 (s, 3H); 1.44-1.58 (m, 4H); 0.72 (t, J=7.04 Hz, 6H) ppm. MS/ES+=180 (100%, M+1).

reactant | N-[4-(1-ethyl-propyl)-6-methyl-pyridazin-3-yl]-2,2-dimethyl-propionamide | 45 mmol, 12.0 g | C(C)C(CC)C1=C(N=NC(=C1)C)NC(C(C)(C)C)=O | C15H25N3O
solvent | hydrochloric acid | 60 ml | Cl | ClH
product | 4-(1-Ethyl-propyl)-6-methyl-pyridazin-3-ylamine | 37 mmol, 6.68 g, 81.0% | C(C)C(CC)C1=C(N=NC(=C1)C)N | C10H17N3
